US07612114B2
4-[2-(4-Hydroxyphenyl)ethyl]-3-{methyl-[4-(2-piperidin-1-ylethoxy) benzyl]amino}phenol
Synthesized from {5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenyl}[4-(2-piperidin-1-ylethoxy)benzyl]amine (780 mg) according to an analogous synthetic method to Preparation Example 18, {5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenyl}methyl[4-(2-piperidin-1-ylethoxy)benzyl]amine (380 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (316 mg).

reactant | {5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenyl}[4-(2-piperidin-1-ylethoxy)benzyl]amine | 780 mg | COC=1C=CC(=C(C1)NCC1=CC=C(C=C1)OCCN1CCCCC1)CCC1=CC=C(C=C1)OC | C30H38N2O3
reactant | {5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenyl}methyl[4-(2-piperidin-1-ylethoxy)benzyl]amine | 380 mg | COC=1C=CC(=C(C1)N(CC1=CC=C(C=C1)OCCN1CCCCC1)C)CCC1=CC=C(C=C1)OC | C31H40N2O3
product | 4-[2-(4-Hydroxyphenyl)ethyl]-3-{methyl-[4-(2-piperidin-1-ylethoxy) benzyl]amino}phenol | 316 mg | OC1=CC=C(C=C1)CCC1=C(C=C(C=C1)O)N(CC1=CC=C(C=C1)OCCN1CCCCC1)C | C29H36N2O3
